US09303040B2
HCl (4N in dioxane) was added to a solution of tert-butyl 2-(4-fluorophenyl)-3-(4-((S)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(isopropyl)carbamate (50 mg, 0.092 mmol) in Et2O (4 mL) and DCM (0.5 mL) at room temperature. The reaction mixture was stirred at room temperature for 4 hours. The reaction mixture was concentrated in vacuo. The residue was taken up into DCM (1 mL), and precipitated with Et2O (15 mL), and the solids were filtered under nitrogen to give 2-(4-fluorophenyl)-3-(isopropylamino)-1-(4-((S)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride (30 mg, 63% yield) as a mixture of 2 diastereomers. LCMS (APCI+) [M+H]+ 444.

reactant | HCl | 4N | Cl | ClH
reactant | tert-butyl 2-(4-fluorophenyl)-3-(4-((S)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(isopropyl)carbamate | 0.092 mmol, 50 mg | FC1=CC=C(C=C1)C(CN(C(OC(C)(C)C)=O)C(C)C)C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CS[C@H]2C | C28H38FN5O3S
solvent | Et2O | 4 mL | CCOCC | C4H10O
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-fluorophenyl)-3-(isopropylamino)-1-(4-((S)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride | 30 mg, 63% yield | Cl.Cl.FC1=CC=C(C=C1)C(C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CS[C@H]2C)CNC(C)C | InChI=1S/C23H30FN5OS.2ClH/c1-15(2)25-12-19(17-4-6-18(24)7-5-17)23(30)29-10-8-28(9-11-29)22-21-16(3)31-13-20(21)26-14-27-22;;/h4-7,14-16,19,25H,8-13H2,1-3H3;2*1H/t16-,19?;;/m0../s1
